US05354759
To a solution of 2-ethylthio-7-methyl-3H-imidazo[4,5-b]pyridine (1.50 g) in dimethylformamide (15 ml) was added sodium hydride (341 mg) at room temperature under nitrogen atmosphere. The mixture was stirred for 30 minutes at the same room temperature under nitrogen atmosphere. To the mixture was added a solution of 1-(4-bromomethylphenyl)-4-chloropyrrole-2-carbonitrile (2.19 g) in dimethylformamide (15 ml). The mixture was stirred for 3 hours at room temperature. The mixture was treated with aqueous sodium bicarbonate solution, extracted twice with ethyl acetate. The extracts were washed with water, dried over magnesium sulfate, and evaporated. The residue was purified by silica gel column chromatography (eluted by n-hexane/ethyl acetate=1/1) to yield 2-ethylthio-3-[4-(4-chloro-2-cyano-1-pyrrolyl)benzyl]-7-methyl-3H-imidazo-[4,5-b]pyridine (850 mg) as a yellow oil.

reactant | 2-ethylthio-7-methyl-3H-imidazo[4,5-b]pyridine | 1.50 g | C(C)SC1=NC=2C(=NC=CC2C)N1 | C9H11N3S
reactant | sodium hydride | 341 mg | [H-].[Na+]
reactant | 1-(4-bromomethylphenyl)-4-chloropyrrole-2-carbonitrile | 2.19 g | BrCC1=CC=C(C=C1)N1C(=CC(=C1)Cl)C#N | C12H8BrClN2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-ethylthio-3-[4-(4-chloro-2-cyano-1-pyrrolyl)benzyl]-7-methyl-3H-imidazo-[4,5-b]pyridine | 850 mg | C(C)SC1=NC=2C(=NC=CC2C)N1CC1=CC=C(C=C1)N1C(=CC(=C1)Cl)C#N | C21H18ClN5S
